US06777419B1
3 g of methyl 3-[7-chloro-1-methyl-3-propyl-1H-pyrazolo[4,3-d]pyrimidin-5-yl]propionate and 1.9 g of 3-chloro-4-methoxybenzylamine (“A”) in 50 ml of dimethylformamide (DMF) are stirred at 60° for 12 hours in the presence of potassium carbonate. After filtration, the solvent is removed and the mixture is worked up in the customary manner. 4.6 g of methyl 3-[7-(3-chloro-4-methoxybenzylamino)-1-methyl-3-propyl-1H-pyrazolo[4,3-d]pyrimidin-5-yl]propionate are obtained as a colourless oil.

reactant | methyl 3-[7-chloro-1-methyl-3-propyl-1H-pyrazolo[4,3-d]pyrimidin-5-yl]propionate | 3 g | ClC=1C2=C(N=C(N1)CCC(=O)OC)C(=NN2C)CCC | C13H17ClN4O2
reactant | 3-chloro-4-methoxybenzylamine | 1.9 g | ClC=1C=C(CN)C=CC1OC | C8H10ClNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | methyl 3-[7-(3-chloro-4-methoxybenzylamino)-1-methyl-3-propyl-1H-pyrazolo[4,3-d]pyrimidin-5-yl]propionate | 4.6 g | ClC=1C=C(CNC=2C3=C(N=C(N2)CCC(=O)OC)C(=NN3C)CCC)C=CC1OC | C21H26ClN5O3
